US07291631B2
Using General Procedure B, reaction of N-Boc-4-piperidone, C-(3,5-dimethylpyridin-2-yl)-methylamine and NaBH(OAc)3 in CH2Cl2 gave 4-[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester.

reactant | N-Boc-4-piperidone | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | C-(3,5-dimethylpyridin-2-yl)-methylamine | CC=1C(=NC=C(C1)C)CN | C8H12N2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=NC=C(C=C1C)C | C18H29N3O2
